US04159331
In the manner given in Example 1B, 1[(p-nitrophenyl)sulfonyl] -4-(p-propoxyphenyl)piperazine is reduced with hydrogen over platinum oxide catalyst (PtO2) to give 1-[(p-aminophenyl)sulfonyl]-4-(p-propoxyphenyl)piperazine.

reactant | 1[(p-nitrophenyl)sulfonyl] -4-(p-propoxyphenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCC | C19H23N3O5S
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
product | 1-[(p-aminophenyl)sulfonyl]-4-(p-propoxyphenyl)piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCC | C19H25N3O3S
